US07557103B2
Preparation of 3-(2-methyl-2H-indazol-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine
8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine (300 mg, 0.87 mmol), 2-methyl-2H-indazole (ref. J. Org. Chem. 2003, 68, 4093-4095, 230 mg, 1.76 mmol) and cesium carbonate (570 mg, 1.75 mmol) stirred in DMF (5 ml) and degassed by bubbling a stream of nitrogen through the mixture. PdCl2(PPh3)2 added and the mixture heated to 100° C. overnight. The mixture is added to water and extracted twice with ether. The combined organic extracts are washed with brine, dried over Na2SO4, filtered and concentrated. The crude product is purified by chromatography using a hexane-ethyl acetate gradient (100% hexane to 50% ethyl acetate in hexane) to give the title compound (85 mg, 28% yield).

reactant | 8-(1-ethyl-propyl)-3-iodo-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.87 mmol, 300 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C(=C(N2)C)I | C13H18IN3
reactant | 2-methyl-2H-indazole | 1.76 mmol, 230 mg | CN1N=C2C=CC=CC2=C1 | C8H8N2
reactant | cesium carbonate | 1.75 mmol, 570 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 3-(2-methyl-2H-indazol-3-yl)-8-(1-ethyl-propyl)-2,6-dimethyl-imidazo[1,2-b]pyridazine | 85 mg, 28% yield | CN1N=C2C=CC=CC2=C1C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C | C21H25N5
